US03982001
4-Acetoxy-4-(3.4-methylene dioxy phenyl)-1-(3- phenyl-propyl)-piperidine [process variant b)]
4-Acetoxy-4-(3.4-methylene dioxy phenyl)-piperidine hydrochloride (M.P. 167° - 168°C) is obtained in analogous manner to that described in Example 1d from 4-Acetoxy-1-benzyl-4-(3.4-methylene dioxy phenyl)-piperidine hydrochloride with no free hydrochloric acid and at a temperature of 40° - 50°C.

reactant | 4-Acetoxy-1-benzyl-4-(3.4-methylene dioxy phenyl)-piperidine hydrochloride | Cl.C(C)(=O)OC1(CCN(CC1)CC1=CC=CC=C1)C1=CC2=C(C=C1)OCO2
reactant | hydrochloric acid | Cl | ClH
product | 4-Acetoxy-4-(3.4-methylene dioxy phenyl)-1-(3- phenyl-propyl)-piperidine | C(C)(=O)OC1(CCN(CC1)CCCC1=CC=CC=C1)C1=CC2=C(C=C1)OCO2 | C23H27NO4
